* Netlist snapshot for record 20260910-125200-4805118 -- exactly what was simulated.
* DUT: comparator-dr0001 (schematic), design/comparator.spice
* Testbench: sim/comparator-preamp-noise/testbench/tb_preamp_noise.spice
* ---------------- DUT NETLIST ----------------
* ===========================================================================
* GENERATED FILE -- do not edit. Regenerate with:  ./design/netlist.sh
*
* Source of truth: design/comparator.sch and the cells below it
*   design/comparator_dut.sch        -> .subckt comparator_dut
*   design/comparator_dut_analog.sch -> .subckt comparator_dut_analog
*   design/comparator_dut_latch.sch  -> .subckt comparator_dut_latch
*
* Topology, sizing and the gm/ID rows every device is cited against:
*   spec/decision-records/DR-0001-comparator-topology.md
*
* Interface contract (pin names and ORDER) : sim/dut/README.md
* Bound into the corner runner by          : sim/dut.json
*
* This file deliberately contains no .include / .lib / .temp / .control /
* .endc / .end: the harness supplies the models, the corner .lib sections,
* the temperature and the control block for every PVT point it composes.
* ===========================================================================
** sch_path: design/comparator.sch

* expanding   symbol:  comparator_dut.sym # of pins=8
** sym_path: design/comparator_dut.sym
** sch_path: design/comparator_dut.sch
.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss

*.ipin vinp
*.ipin vinn
*.ipin clk
*.ipin ibias
*.opin dout
*.opin doutb
*.iopin vdd
*.iopin vss
XA vinp vinn ibias aop aon vdd vss comparator_dut_analog
XL aop aon clk dout doutb vdd vss comparator_dut_latch
.ends

* expanding   symbol:  comparator_dut_analog.sym # of pins=7
** sym_path: design/comparator_dut_analog.sym
** sch_path: design/comparator_dut_analog.sch
.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss

*.ipin vinp
*.ipin vinn
*.ipin ibias
*.opin aop
*.opin aon
*.iopin vdd
*.iopin vss
XMB ibias ibias vss vss nfet_03v3 L=4u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMT atail ibias vss vss nfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIP aon vinp atail vss nfet_03v3 L=2u W=30u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN aop vinn atail vss nfet_03v3 L=2u W=30u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRN aon vdd vss ppolyf_u_1k r_width=1u r_length=120u m=1
XRP aop vdd vss ppolyf_u_1k r_width=1u r_length=120u m=1
.ends

* expanding   symbol:  comparator_dut_latch.sym # of pins=7
** sym_path: design/comparator_dut_latch.sym
** sch_path: design/comparator_dut_latch.sch
.subckt comparator_dut_latch inp inn clk dout doutb vdd vss

*.ipin inp
*.ipin inn
*.ipin clk
*.opin dout
*.opin doutb
*.iopin vdd
*.iopin vss
XMTL ltail clk vss vss nfet_03v3 L=0.5u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 mn inp ltail vss nfet_03v3 L=0.5u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 mp inn ltail vss nfet_03v3 L=0.5u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 qn qp mn vss nfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 qp qn mp vss nfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 qn qp vdd vdd pfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 qp qn vdd vdd pfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 qn clk vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 qp clk vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM9 mn clk vdd vdd pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM10 mp clk vdd vdd pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XIP1 sp qp vdd vdd pfet_03v3 L=0.5u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XIN1 sp qp vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XIP2 sn qn vdd vdd pfet_03v3 L=0.5u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XIN2 sn qn vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XA1P na sp vdd vdd pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XA2P dout doutb na vdd pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XA1N dout sp vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XA2N dout doutb vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XB1P nb sn vdd vdd pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XB2P doutb dout nb vdd pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XB1N doutb sn vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XB2N doutb dout vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_preamp_noise -- input-referred noise of the comparator front end,
* measured with ngspice's `.noise` analysis, over the full PVT grid.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-sar-adc/sim/comparator-preamp-noise/ -- see
* this experiment's README.md for the full transfer/non-transfer list.
*
* THE UNITS CAUTION THAT MADE THIS BENCH WORTH PORTING. ngspice's own
* `inoise_total` is its input referral through the AC transfer function of
* the source you name; the number this repo's README.md noise row is stated
* at is the TOTAL INTEGRATED OUTPUT NOISE DIVIDED BY THE MEASURED DC GAIN.
* The sibling repo's own record documents a prior 200x-magnitude error from
* reporting `sqrt(onoise_total)` directly as the answer. So this bench
* reports BOTH -- `vn_in_uv` (onoise_total / A_v, the number that is quoted)
* and `inoise_band_uv` (ngspice's own) -- and the record shows them side by
* side. If they ever disagree by more than the AC-vs-DC gain difference,
* something is wrong with the referral, and that is visible rather than
* hidden.
*
* WHY THIS BENCH CAN EXIST AT ALL. `.noise` is a small-signal analysis about
* a DC operating point. A reset-and-regenerate decision stage has none, and
* ngspice offers no PSS/pnoise and no automatic device-level transient noise.
* So this bench measures the FRONT END -- which is also where the dominant
* term is, since everything after it is divided by the front-end gain. The
* decision stage's own noise is not reachable this way and is not claimed
* here; sim/comparator-regeneration/'s 0.1 mV rung bounds the region where
* it would matter. See sim/dut/README.md "Why the DUT is split into three
* subckts" for what happens to this bench if the ratified topology turns out
* to have no DC-resolvable front end.
*
* THE DECISION STAGE IS INSTANTIATED HERE, WITH ITS CLOCK HELD LOW. It
* contributes no current in reset, but it presents the input capacitance
* that -- with the front-end load resistance -- sets the noise bandwidth.
* Leaving it out would under-load the node, OVER-state the bandwidth, and so
* OVER-state the noise; replacing it with an invented lumped capacitor would
* make the number depend on that invention. Neither is acceptable, so the
* real thing is instantiated in reset.
*
* WHAT IS MEASURED
*   vn_in_uv      total input-referred noise, 1 Hz .. 1 GHz, as
*                 onoise_total / A_v(DC). A comparator SAMPLES its input
*                 noise at the decision instant rather than filtering it, so
*                 the relevant quantity is the TOTAL integrated noise, not a
*                 density at some bandwidth.
*   vn_in_hf_uv   the same integrated from 1 kHz up. The difference in
*                 quadrature is the sub-kHz flicker content, which drifts
*                 slowly enough to behave as an offset rather than as
*                 per-decision noise. Reporting both keeps that distinction
*                 visible instead of burying it in one total.
*   av_dc, enbw   gain and equivalent noise bandwidth, so the noise number
*                 can be re-derived by hand as (density x sqrt(ENBW)).
*
* fnoicor. The flicker-corner switch is left at the PDK default
* (fnoicor = 0, as-extracted). The worst-case setting moves the gf180mcu
* flicker corner substantially, so every flicker number in this repo must
* state which setting it came from -- this one is the default, and the
* vn_in_uv / vn_in_hf_uv split above is what lets a reader rescale the
* flicker part and see whether it would change any verdict.

.param c_route=10f

vsup vdd 0 dc {vdd_val}

* ---- ideal standalone stimulus ---------------------------------------
* `vd` is the noise-analysis input source, so ngspice's own inoise_* is
* referred to the DIFFERENTIAL input directly and is comparable with the
* divide-by-gain number this bench actually quotes.
vcm  cm 0 dc {dut_vcm}
vd   vd 0 dc 0 ac 1
Eap  ap cm vd 0 0.5
Ean  an cm vd 0 -0.5

* ---- device under test ------------------------------------------------
ib   vdd ibn dc {dut_ib}
Xa   ap an ibn aop aon vdd 0 comparator_dut_analog

* Decision stage in reset: no current, but its input capacitance is part of
* the load that sets the front end's noise bandwidth.
vclk clk 0 dc 0
Xl   aop aon clk doutl doutbl vdd 0 comparator_dut_latch

* Routing allowance on each front-end output: a stated placeholder for
* interconnect that does not exist until a floorplan does. Kept deliberately
* SMALL, because loading this node harder would lower the noise bandwidth
* and so REDUCE the reported noise -- an optimistic direction. Under-loading
* it is the conservative choice, which means post-layout extraction can only
* improve this number, never worsen it.
Cwp aop 0 {c_route}
Cwn aon 0 {c_route}
